US06197959B1
In analogy to the procedure described in example 4(b), the (3RS,4RS)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[1-(3-methylamino-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl/methanol to yield the (3RS,4RS)-[3-[7-[4-[4-[3-(2-methoxy-benzyloxy)-propoxyl]-phenyl]-piperidin-3-yloxymethyl]-3,4-dihydro-2H-quinolin-1-yl]-propyl]-methyl-amine as a light yellow oil; MS: 588 (M+H)+.

reactant | (3RS,4RS)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[1-(3-methylamino-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCCNC | C41H57N3O6
reactant | HCl methanol | Cl.CO
product | (3RS,4RS)-[3-[7-[4-[4-[3-(2-methoxy-benzyloxy)-propoxyl]-phenyl]-piperidin-3-yloxymethyl]-3,4-dihydro-2H-quinolin-1-yl]-propyl]-methyl-amine | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CNCC2)OCC2=CC=C3CCCN(C3=C2)CCCNC)C=CC=C1 | C36H49N3O4
